US06921763B2
4-Bromophenyl isothiocyanate (3.639 g, 17.00 mmol) was added to a solution of 2-amino-4-chlorophenol (2.441 g, 17.00 mmol) in acetonitrile (20 mL) and the reaction was stirred at room temperature for 2 h. The resulting brown solution was then added dropwise, via a dropping funnel, to a suspension of potassium superoxide (6.04 g, 85.0 mmol) in acetonitrile (20 mL) pre-cooled to 0° C. in an ice bath. After 20 minutes the initial exotherm had subsided and the reaction was allowed to warm to room temperature for 40 minutes. Water (120 mL) was added dropwise and the resulting off-white solid was collected by filtration, washed with additional water (60 mL) and dried overnight on a lyophilizer to afford N2-(4-bromophenyl)-5-chloro-1,3-benzoxazol-2-amine as an off-white solid (4.06 g, 74%); RP-HPLC Rt 17.229 min, 99% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 321 (M−H)− and 323 (M−H)−; 1H NMR (400 MHz, d6-DMSO) 7.17 (1H, dd, J 8.5 and 1.9 Hz), 7.53 (4H, m), 7.71 (2H, d, J 8.8 Hz), and 10.95 (1H, s).

reactant | 4-Bromophenyl isothiocyanate | 17.00 mmol, 3.639 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | 2-amino-4-chlorophenol | 17.00 mmol, 2.441 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | potassium superoxide | 85.0 mmol, 6.04 g | O=O.[K+]
reactant | Water | 120 mL | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N2-(4-bromophenyl)-5-chloro-1,3-benzoxazol-2-amine | 4.06 g, 74% | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)Cl | C13H8BrClN2O
